US04410548
10% v/v Aqueous hydrogen peroxide (27 ml) was added to 2-methoxy-5-methyl-4-(methylthio)phenol (1.72 g) in glacial acetic acid (15 ml). After 24 hours the acetic acid was neutralised with 2 N aqueous sodium hydroxide and the product was extracted into methylene chloride (100 ml). The organic extract was washed with 10% w/v aqueous sodium sulphite solution and water, dried (Na2SO4) and the solvent was removed in vacuo. Recrystallisation from ethanol/diethyl ether gave 2-methoxy-5-methyl-4-methylsulphinylphenol (0.16 g) as colourless crystals m.p. 166°-168° (identical to that prepared in (i) above).

reactant | hydrogen peroxide | 27 ml | OO | H2O2
reactant | 2-methoxy-5-methyl-4-(methylthio)phenol | 1.72 g | COC1=C(C=C(C(=C1)SC)C)O | C9H12O2S
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 2-methoxy-5-methyl-4-methylsulphinylphenol | 0.16 g | COC1=C(C=C(C(=C1)S(=O)C)C)O | C9H12O3S
